Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / morphine / prochlorperazine
 
Attending: ___.
 
Chief Complaint:
abdominal pain, vomiting 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old lady with history of distant 
gastric bypass with multiple complications, chronic abdominal 
pain, substance abuse on methadone, and pulmonary embolism 
currently on lovenox/warfarin who was recently admitted with 
persistent odynophagia, abdominal pain and nausea, found to have 
recurrent esophagitis, and a more recent admission for abdominal 
pain nausea and vomiting thought to be due to constipation 
secondary to methadone overuse as outpatient, who comes in with 
abdominal pain and vomiting, similar to her presentation 2 weeks 
ago.  
During her last admission ___, her symptoms were initially 
concerning for partial SBO although abdominal xray and CT did  
not support this diagnosis at that time. NG tube was placed but 
came out overnight. Most likely etiology for her prior 
presentation was constipation, which may have been precipitated 
by methadone abuse in outpatient setting. Her symptoms at that 
time wre managed medically with pantoprazole BID, standing 
tylenol and home methadone 7.5mg PO TID for pain, and an 
aggressive bowel regimen (senna, colace, miralax, bisacodyl, 
enema). Her PCP had emailed on admission regarding concerns 
about using methadone excessively at home, running out, then 
withdrawing, and was in the process fo tapering methadone down 
as an outpatient. There have been concerns about opiate use in 
the past as an outpatient. She was given zofran and compazine 
for nausea with good relief. She transitioned from NPO to 
regular diet at that time within 48 hr of admission. EKG ___ 
showed QTc 448, EKG ___ with QTc 426. She was weaned to 
methadone 5mg TID and discharged on this dose. Of note she had 
several episodes of altered mental status w/ pinpoint pupils 
that resolved spontaneously w/o narcan. The only new med was 
compazine, this was stopped, her mental status was stable for 24 
hours, and she was discharged home.  
Initial vitals in the ED were: 98 100 ___ 99%.  
Labs were notable for normal chem 7, lactate, coagulation 
profile, no leukocytosis. CT abd-pelvis with oral contrast 
showed no obstruction but significant constipation. She was seen 
by Bariatric surgery who recommended admission to Medicine if pt 
unable to tolerate PO's and treatment with 40 BID PPI, carafate, 
and banana bag. In the ED she was not able to tolerate PO. 
Patient was informed that narcotic pain medications will be 
avoided as this will worsen her constipation which is likely the 
reason for her symptoms.  
In the ED she was given NS 3L, Dilaudid, Zofran, Acetaminophen, 
Protonix, Thiamine, FOlic Acid.  
Vitals prior to transfer were: 98.6 93 148/90 20 100% RA.  
On the floor, she reports that since discharge she has only had 
one small BM 4 days ago. She feels that she never got better. 
Reports emesis of bilious material ___ and continued 
epigastric burning worse when lying flat. Diffuse abdominal pain 
L>R. Reports compliance with miralax, enemas, suppositories, 
dulcolax and colace without any improvement. She feels burning 
chest pain and odynophagia when she swallows, but when her 
stomach is empty feels abdominal pain. No hematemesis. No 
melena. Potentially saw red in her stool on ___ but is not 
sure about this. Reports severe abdominal pain and nausea, and 
that zofran helps. Reports she has been taking 4g-5g tylenol 
daily since discharge.  

 
Past Medical History:
-Morbid obesity (max 448lbs) s/p gastric bypass & CCY ___ at  
___ and complete reversal  
-History of HTN, DM, asthma (prior to gastric bypass)  
-Opiate addiction: prior intranasal herion, oral dilaudid abuse, 
now on methadone  
-Depression/Anxiety  
-Esophagitis: EGD ___ showed mild active esophagitis.
-DVT/PE ___  
-DJD  
-2 SBOs  
-Menopause completed  

Past Surgical History:  
-___- gastric bypass & CCY and subsequent complete  
reversal  
-7 surgeries on the abdomen. "stomach leak" hernia, 2 SBOs,  
attempted reverse of the gastric bypass, the most recent in ___
 
Social History:
___
Family History:
Mother with diabetes
 
Physical Exam:
Admission Physical:
====================
Afebrile, normotensive
GENERAL: thin lady lying in bed, appears uncomfortable, no 
respiratory distress, appears stated age  
HEENT: EOMI, PERRL, anicteric sclera, MMM, nontender supple 
neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, tender to palpation in all quadrants 
L>R, worst LUQ, no rebound  
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema  
PULSES: 2+ ___ pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

Discharge Physical:
====================
Vitals -  98.5  112/60  95  18  100% RA
GENERAL: thin lady lying in bed, appears stated age, NAD  
HEENT: MMM
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, tender to palpation in epigastric 
region
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema  
NEURO: alert, speech appropriate  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes
 
Pertinent Results:
Admission Labs: 
=================
___ 06:40PM BLOOD WBC-4.9 RBC-3.57* Hgb-11.0* Hct-34.5* 
MCV-97 MCH-30.9 MCHC-32.0 RDW-15.7* Plt ___
___ 06:40PM BLOOD Neuts-50.0 Lymphs-42.8* Monos-3.9 Eos-2.4 
Baso-0.8
___ 07:24PM BLOOD ___ PTT-34.4 ___
___ 06:40PM BLOOD Glucose-87 UreaN-10 Creat-0.7 Na-141 
K-3.8 Cl-106 HCO3-28 AnGap-11
___ 06:40PM BLOOD ALT-9 AST-10 AlkPhos-86 TotBili-0.2
___ 06:40PM BLOOD cTropnT-<0.01
___ 06:43PM BLOOD Lactate-1.0

Urinalysis:
============
___ 01:45AM URINE Color-Straw Appear-Clear Sp ___
___ 01:45AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.5 Leuks-NEG

Discharge Labs:
=================
___ 09:34AM BLOOD WBC-4.5 RBC-3.77* Hgb-11.4* Hct-37.1 
MCV-98 MCH-30.1 MCHC-30.6* RDW-16.0* Plt ___
___ 08:00AM BLOOD ___
___ 08:00AM BLOOD Glucose-109* UreaN-11 Creat-0.9 Na-143 
K-3.8 Cl-105 HCO3-24 AnGap-18
___ 08:00AM BLOOD Calcium-9.1 Phos-4.3 Mg-2.0

Imaging:
===========
EKG ___: Normal sinus rhythm. ECG within normal limits. No 
diagnostic changefrom previous tracing of ___.
___
___

CT Abdomen/Pelvis w/ contrast ___: 
1.  No evidence of bowel obstruction with oral contrast passing 
to the level of the colon.
 
2.  Stable mild dilatation of the CBD compared to the prior CT 
from ___, and again may be related to sphincter of 
Oddi dysfunction.
 
3.  Stable ___ opacities at the bases of the lungs 
bilaterally, likely secondary to small airways infection or 
aspiration.

 
Brief Hospital Course:
___ with history of gastric bypass s/p reversal, esophagitis, 
chronic pain, PE presenting with odynophagia, nausea and 
abdominal pain.

# Odynophagia: Differential included recurrent esophagitis vs 
esophageal or anastamotic ulcer vs infection. Without fevers and 
WBC stable from prior with known history of esophagitis and 
report of lack of adherence to PPI at home, esophagitis was 
thought to be most likely etiology of ___ pain. Her 
esophagitis may also have been worsened by worsened reflux 
related to her constipation as below. Given stable hematocrit 
and no evidence of bleeding on exam, EGD was deferred on this 
admission. Patient was treated with IV PPI BID then transitioned 
to omeprazole BID. Her pain was controlled with home methadone, 
sucralfate and maalox/diphenhydramine/lidocaine mouth wash with 
good effect and patient was able to tolerate POs prior to 
discharge. Patient should continue BID PPI until follow-up with 
GI as an outpatient next month. 

#Abdominal Pain/nausea/vomiting: Patient with significant pain 
to palpation particularly at LLQ with evidence of significant 
stool burden on CT abdomen on admission and no bowel movement 
for 6 days prior to admission. No evidence of infection based on 
CT abdomen, WBC count and temperature (afebrile). Likely that 
___ constipation worsened by methadone and zofran which 
can be constipating. Constipation treated with multiple mineral 
oil and tap water enemas as well as miralax, colace and senna 
with improvement in constipation and abdominal pain. Nausea 
improved with relief of constipation and IV zofran. Patient was 
transitioned back to higher dose of PO zofran prior to discharge 
which she tolerated well. Patient discharged on aggressive bowel 
regimen. Methadone (likely cause of constipation) to be tapered 
per PCP as below.

# Chronic Pain: Per Dr. ___ PCP), patient is 
currently tapering methadone and was scheduled to taper to 5mg 
daily on day of admission. In the setting of symptoms consistent 
with esophagitis, further taper of methadone deferred and 
patient was continued on previous dosing of methadone 5mg BID 
with plan for follow-up at ___ office on ___ for discussion 
regarding further methadone taper. 

# Pinpoint pupils and mild impaired responsiveness: Patient with 
difficulty waking from sleep AM of ___ for ___ minutes. She was 
noted to be difficult to wake fully with pinpoint pupils, 
answering questions but unable to move more than a few inches in 
bed. Spontaneously improved with pupils dilated to baseline. 
Unclear etiology. No known seizure history, no post-ictal state. 
Neurology was curbsided and did not reel that description was 
consistent with any classic seizure presentation. Patient with 
similar issue on last admission and is not sure if this happens 
sometimes at home as well. Other considerations for etiology 
include sleep disorder vs medication effect given multiple 
central acting medications. Patient scheduled for outpatient 
neurology follow-up. Would also consider outpatient sleep study 
if this persists. 

# Hx of DVT with PE in ___: PE and DVTs in setting of 
hospitalization and immobilization. Patient with subtherapeutic 
(normal) INR on admission with concern that patient has either 
not been taking her coumadin or has been unable to absorb 
related to prior abdominal surgeries. Patient was continued on 
enoxaparin 70 BID and coumadin 7mg daily on this admission. INR 
of 1.0 on discharge. 

  
# Depression/anxiety: Patient continued on home buproprion, 
clonazepam, doxepin, mirtazapine and seroquel once able to 
tolerate PO medications (HD2).
 
--
Transitional Issues:
- Code: DNR/DNI (confirmed)
- Emergency Contact: ___ (daughter and HCP): 
___
- Please repeat MRCP in ___ or ___ for follow-up of possible 
sphincter of Oddi dysfunction
- Consider social work for placement into day program. At this 
time, ___ daughter comfortable with patient coming home 
but concerned about her day time activities and hopeful for 
respite during the day to help her mom improve
-Patient with recurrent episode of lethargy on waking, pinpoint 
pupils that spontaneously resolved. Per discussion with neuro, 
symptoms not consistent with seizures but would consider further 
neuro work-up as outpatient and possible sleep study given 
episodes occur when waking up
-Continue taper of methadone to 5mg daily and off 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion (Sustained Release) 150 mg PO QAM 
2. Cholestyramine 2 gm PO BID 
3. ClonazePAM 1 mg PO TID 
4. Cyanocobalamin 1000 mcg PO DAILY 
5. Doxepin HCl 75 mg PO HS 
6. Gabapentin 600 mg PO Q8H 
7. Lidocaine Viscous 2% 15 mL PO TID:PRN reflux/odynophagia 
8. Maalox/Diphenhydramine/Lidocaine ___ mL PO QID:PRN 
odynophagia  
9. Mirtazapine 22.5 mg PO HS 
10. Multivitamins W/minerals 1 TAB PO DAILY 
11. QUEtiapine Fumarate 100 mg PO QAM 
12. QUEtiapine Fumarate 300 mg PO QHS 
13. Warfarin 7 mg PO DAILY16 
14. Acetaminophen 1000 mg PO Q8H:PRN pain 
15. Docusate Sodium 100 mg PO BID 
16. Enoxaparin Sodium 70 mg SC Q12H 
17. Polyethylene Glycol 17 g PO DAILY constipation 
18. Senna 8.6 mg PO BID 
19. copper gluconate 2 mg oral daily 
20. Omeprazole 40 mg PO BID 
21. Ondansetron 4 mg PO Q8H:PRN nausea 
22. Thiamine 100 mg PO DAILY 
23. Vitamin D 1000 UNIT PO DAILY 
24. Furosemide 40 mg PO DAILY 
25. Bisacodyl ___AILY:PRN constipation 
26. Fleet Enema ___AILY:PRN constipation 
27. Bisacodyl 10 mg PO BID:PRN constipation 
28. Nicotine Patch 21 mg TD DAILY 
29. Methadone 5 mg PO TID 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. Bisacodyl ___AILY:PRN constipation 
3. BuPROPion (Sustained Release) 150 mg PO QAM 
4. Cholestyramine 2 gm PO BID 
5. ClonazePAM 1 mg PO TID 
6. Cyanocobalamin 1000 mcg PO DAILY 
7. Docusate Sodium 100 mg PO BID 
8. Doxepin HCl 75 mg PO HS 
9. Enoxaparin Sodium 70 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 80 mg/0.8 mL 0.7 mL SC twice a day Disp #*30 
Syringe Refills:*0
10. Furosemide 40 mg PO DAILY 
11. Gabapentin 600 mg PO Q8H 
12. Maalox/Diphenhydramine/Lidocaine ___ mL PO QID:PRN 
odynophagia  
13. Methadone 5 mg PO BID 
RX *methadone 5 mg 1 tablet by mouth twice a day Disp #*8 Tablet 
Refills:*0
14. Mirtazapine 22.5 mg PO HS 
RX *mirtazapine 45 mg 0.5 (One half) tablet(s) by mouth at 
bedtime Disp #*30 Tablet Refills:*0
15. Nicotine Patch 21 mg TD DAILY 
16. Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp #*30 
Capsule Refills:*0
17. Ondansetron 8 mg PO Q8H:PRN nausea 
RX *ondansetron 8 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*15 Tablet Refills:*0
18. Polyethylene Glycol 17 g PO BID 
RX *polyethylene glycol 3350 17 gram 17g powder(s) by mouth 
twice a day Disp #*30 Packet Refills:*0
19. QUEtiapine Fumarate 100 mg PO QAM 
20. QUEtiapine Fumarate 300 mg PO QHS 
21. Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*30 Tablet Refills:*0
22. Thiamine 100 mg PO DAILY 
23. Vitamin D 1000 UNIT PO DAILY 
24. Warfarin 7 mg PO DAILY16 
25. Sucralfate 1 gm PO QID 
RX *sucralfate 1 gram/10 mL 10mL suspension(s) by mouth four 
times a day Refills:*0
26. Bisacodyl 10 mg PO BID:PRN constipation 
27. copper gluconate 2 mg oral daily 
28. Fleet Enema ___AILY:PRN constipation 
29. Multivitamins W/minerals 1 TAB PO DAILY 
30. Lidocaine Viscous 2% 15 mL PO TID:PRN reflux/odynophagia 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
1. Constipation
2. Esophagitis

Secondary Diagnosis:
1. Chronic Pain
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with nausea, abdominal pain 
and pain with swallowing. You had a CT scan done of your abdomen 
which showed significant constipation. You were given enemas and 
oral medications with relief of your constipation and 
improvement in your nausea. It is VERY important that you 
continue to take your medications for constipation to prevent 
recurrent abdominal pain.

In terms of your pain with swallowing, this was thought to be 
secondary to recurrent esophagitis. You were treated with 
omeprazole (an acid suppression medication), sucralafate and 
maalox/lidocaine mouth wash with improvement in your pain. Your 
nausea was treated with zofran and you were tolerating food and 
fluids prior to discharge.

Finally, you were continued on methadone during this admission. 
You are being discharged on your previous methadone dose of 5mg 
twice per day. It is very important that you take this 
medication as prescribed. When you follow-up at the ___ 
Center, you will talk about continuing your methadone taper. 

Your INR was low in the hospital and you will go home with 
lovenox injections until your INR is high enough to protect you 
from blood clots. You will need to get your next INR drawn 
___ and follow up with your ___ clinic.

It was a pleasure taking care of you!
Your ___ Team
 
Followup Instructions:
___